US06048842
3,5-Dimethoxyaniline (1.0 g) is suspended in a mixture of hydrochloric acid (3 ml), acetic acid (2 ml) and water (5 ml), and thereto is added dropwise a solution of sodium nitrite (473 mg) in water (5 ml) under ice-cooling over a period of 15 minutes. Ten minutes thereafter, to the mixture is added a solution of potassium iodide (1.62 g) in water (5 ml), and the mixture is warmed to 80° C., and stirred for one hour. The reaction mixture is extracted with diethyl ether, and the extract is washed with water, dried, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; hexane/ethyl acetate), and is recrystallized from ethyl acetate/hexane to give 3,5-dimethoxyiodobenzene (1.05 g), m.p. 73-74° C.

reactant | 3,5-Dimethoxyaniline | 1.0 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 473 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 1.62 g | [I-].[K+]
solvent | hydrochloric acid | 3 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 3,5-dimethoxyiodobenzene | 1.05 g | COC=1C=C(C=C(C1)OC)I | C8H9IO2
